US05556864
1(a) 2-[2-(4-Phenylbutyl)phenoxymethyl]oxirane
7.84 g of potassium t-butoxide were added at room temperature to a solution of 15.81 g of 2-(4-phenylbutyl)phenol (prepared as described in Preparation 3) in 350 ml of dimethylacetamide, and the resulting mixture was stirred at the same temperature for 20 minutes, after which 11.46 ml of epibromohydrin were added to it. The mixture was then stirred at room temperature overnight, after which the reaction mixture was partitioned between water and ethyl acetate. The organic layer was then washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and concentrated by evaporation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 7:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 19.68 g (yield 99.8%) of the title compound as a colorless oil.

reactant | potassium t-butoxide | 7.84 g | CC(C)([O-])C.[K+]
reactant | 2-(4-phenylbutyl)phenol | 15.81 g | C1(=CC=CC=C1)CCCCC1=C(C=CC=C1)O | C16H18O
reactant | epibromohydrin | 11.46 ml | C(Br)C1CO1 | C3H5BrO
solvent | dimethylacetamide | 350 ml | CC(=O)N(C)C | C4H9NO
product | 2-[2-(4-Phenylbutyl)phenoxymethyl]oxirane | 19.68 g, yield 99.8% | C1(=CC=CC=C1)CCCCC1=C(OCC2OC2)C=CC=C1 | C19H22O2
